US08975415B2
A mixture of 4-(methoxymethyl)-1H-pyrazole (145 mg, 1.29 mmol), 6′-bromo-4′H-dispiro[cyclobutane-1,2′-chromene-3′,3″-oxetan]-4′-one (200 mg, 0.647 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (74 mg, 0.52 mmol) and K2CO3 (268 mg, 1.94 mmol) in NMP (2 mL) was purged with argon. To the mixture was added CuI (49 mg, 0.26 mmol), and the mixture was sealed and stirred for 1 hour at 150° C. and 0.5 hours at 170° C. under a microwave irradiation. The mixture was partitioned between EtOAc and saturated aqueous NH4Cl. The organic layer was washed with water (two times) and brine, dried over MgSO4, filtered, and the filtrate was evaporated. Silicagel column chromatography (EtOAc-hexane, a linear gradient of EtOAc from 0 to 45%) afforded 6′-[4-(methoxymethyl)-1H-pyrazol-1-yl]-4′H-dispiro[cyclobutane-1,2′-chromene-3′,3″-oxetan]-4′-one (97 mg).

reactant | 4-(methoxymethyl)-1H-pyrazole | 1.29 mmol, 145 mg | COCC=1C=NNC1 | C5H8N2O
reactant | 6′-bromo-4′H-dispiro[cyclobutane-1,2′-chromene-3′,3″-oxetan]-4′-one | 0.647 mmol, 200 mg | BrC=1C=C2C(C3(COC3)C3(OC2=CC1)CCC3)=O | C14H13BrO3
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.52 mmol, 74 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | K2CO3 | 1.94 mmol, 268 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
catalyst | CuI | 0.26 mmol, 49 mg | [Cu]I
product | 6′-[4-(methoxymethyl)-1H-pyrazol-1-yl]-4′H-dispiro[cyclobutane-1,2′-chromene-3′,3″-oxetan]-4′-one | 97 mg | COCC=1C=NN(C1)C=1C=C2C(C3(COC3)C3(OC2=CC1)CCC3)=O | C19H20N2O4
